US09278922B2
(S)-2-(methoxycarbonylamino)-4-phenylbutanoic acid
(S)-2-amino-4-phenylbutanoic acid (0.50 g, 2.8 mmol) was suspended in 1M Na2CO3 (8.4 mL, 8.4 mmol) and then a solution of methyl chloroformate (0.32 mL, 4.2 mmol) in THF (4.0 mL) was added and the mixture was stirred vigorously at room temperature for 4 hours. The mixture was then concentrated under reduced pressure and the residue was dissolved in water and made acidic with 0.1N HCl. The mixture was extracted with ethyl acetate, dried over Na2SO4, filtered and concentrated under reduced pressure to provide the title compound (0.64 g, 97% yield).

reactant | (S)-2-amino-4-phenylbutanoic acid | 2.8 mmol, 0.50 g | N[C@H](C(=O)O)CCC1=CC=CC=C1 | C10H13NO2
reactant | Na2CO3 | 8.4 mmol, 1M, 8.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl chloroformate | 4.2 mmol, 0.32 mL | ClC(=O)OC | C2H3ClO2
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | (S)-2-(methoxycarbonylamino)-4-phenylbutanoic acid | 0.64 g, 97% yield | COC(=O)N[C@H](C(=O)O)CCC1=CC=CC=C1 | C12H15NO4
